US06929897B2
Synthesis of 1,1-dicarbethoxy-3,3,5,5-tetramethyl-3,5-disila-4-oxacyclohexane (CDS_E)
Reaction method: To a dry 1 L 3-neck round bottom flask equipped with a reflex condenser, addition funnel and a N2 gas inlet was added di(ethyleneglycol) diethyl ether (diethyl carbitol) (650 mL, 590.85 g). To the solvent was added sodium hydride (28.80 g, 1.20 mol) under a N2 atmosphere, and the suspension was cooled to ˜5° C. in an ice/water bath. To the cooled suspension was added diethyl malonate (192.00 g, 1.20 mol) dropwise through the addition funnel. (CAUTION: A large quantity of H2 gas is evolved.) When the addition of the diethyl malonate was complete, the suspension had turned to a clear solution. The reaction mixture was heated to 50° C. and stirring was continued for 30 minutes at 50° C. To the solution at 50° C. was then added bis(chloromethyl)tetramethyldisiloxane (138.76 g, 0.6 mol) over a 5 minute period through the addition funnel. The reaction mixture was then heated to 112-115° C., and stirring was continued under a N2 atmosphere while the reaction was monitored by GC. After 20 hr, GC showed that a trace amount of bis(chloromethyl)-tetramethyldisiloxane remained (retention time: 11.5 min.). The mixture was cooled to room temperature and the mixture was transferred to a separatory funnel. Water (500 mL) and ethyl acetate were added, and the organic layer was separated. The aqueous layer was extracted with ethyl acetate (400 mL), and the combined organic layers were washed with water (2×500 mL) and saturated aqueous sodium chloride (500 mL). The organic layer was separated, and the ethyl acetate was removed using a rotary evaporator. The remaining solution was vacuum distilled to remove the di(ethyleneglycol) diethyl ether (b.p. 70° C. @ 8 mm Hg). The solution was concentrated to a final weight of 182 g of crude CDS_E. GC of the crude CDS_E solution was obtained (retention time: 15.2 min.). The solution of the crude product was used in the next reaction without further purification.

reactant | sodium hydride | 1.20 mol, 28.80 g | [H-].[Na+]
reactant | diethyl malonate | 1.20 mol, 192.00 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | bis(chloromethyl)tetramethyldisiloxane | 0.6 mol, 138.76 g | ClC[Si](O[Si](C)(C)C)(C)CCl | C6H16Cl2OSi2
reactant | Water | 500 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1-dicarbethoxy-3,3,5,5-tetramethyl-3,5-disila-4-oxacyclohexane | C(=O)(OCC)C1(C[Si](O[Si](C1)(C)C)(C)C)C(=O)OCC | C13H26O5Si2
